*$
* LM385-ADJ
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM385-ADJ
* Date: 04AUG2015
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SNVS741F –FEBRUARY 2000–REVISED APRIL 2013
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT LM385-ADJ_TRANS A FB K NC_0 NC_1 NC_2 NC_3 NC_4
R_NC0 NC_0 0 1E6
R_NC1 NC_1 0 1E6
R_NC2 NC_2 0 1E6
R_NC3 NC_3 0 1E6
R_NC4 NC_4 0 1E6
R_R18         0 N16955548  1 TC=0,0 
C_C17         N16955362 0  1n  
C_C18         2 A  0.5u  
X_U6         FB N16955360 vnse PARAMS:
C_C19         3 4  0.08u  
E_E23         2 N16955404 VALUE { {I(V_V16)*15.6} }
C_C22         N16955548 0  1n  
R_R13         N16955401 N16955404  1 TC=0,0 
E_E27         VREF 0 VALUE { 1.24 }
V_V16         N16955401 A 0Vdc
G_ABM2I2         A N16955634 VALUE { IF((V(3)-V(A))< 0 , 1.73*(V(3)-V(A)) -1U ,
+  -1U)    }
R_R14         0 N16955362  1 TC=0,0 
D_D11         5 N16955634 DCLAMP 
X_H8    K N16955914 IKA A ATL431_TOP_H8 
X_D12         N16955914 N16955634 d_d1 PARAMS: 
E_E24         4 N16955473 VALUE { {I(V_V17)*10} }
E_E28         N16955936 0 N16955360 A 1
V_V7         5 A 0.5
R_R15         N16955470 N16955473  1 TC=0,0 
V_V17         N16955470 A 0Vdc
G_G4         A 2 VREF N16955936 0.11
R_R16         0 N16955493  1 TC=0,0 
R_R17         N16955529 N16955532  1 TC=0,0 
C_C21         N16955493 0  1n  
E_E25         3 N16955532 VALUE { {I(V_V18)*100} }
V_V18         N16955529 2 0Vdc
.ENDS LM385-ADJ_TRANS
*$
.subckt ATL431_TOP_H8 1 2 3 4  
H_H8         3 4 VH_H8 1
VH_H8         1 2 0V
.ends ATL431_TOP_H8
*$
.subckt vnse 1 2
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
* NV/RHZ AT 1/F FREQ
.PARAM NLF=265
* FREQ FOR 1/F VAL
.PARAM FLW=10
* SET UP VNSE FB
* NV/RHZ FLATBAND
.PARAM NVR=128
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.2)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ends
*$
.model DCLAMP d
+ is=1.35e-008
+ rs=0.025
+ n=1.59
+ cjo=4.5e-011
+ vj=0.75
+ m=0.302
+ tt=5.04e-008
+ bv=34
+ ibv=0.001
*$
.subckt d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1.35e-008
+ rs=0.025
+ n=1.59
+ cjo=4.5e-011
+ vj=0.75
+ m=0.302
+ tt=5.04e-008
+ bv=34
+ ibv=0.001
.ends d_d1
*$