*$
.SUBCKT TL431LI_AVG CATHODE REF ANODE
C_C1         6 N00786  0.87u  TC=0,0
R_R10         E1 6  1
R_R1         6 N00786  15.6
V_V3         7 CATHODE 0Vdc
X_U6         FB_INT N17052054 vnse_mod
G_G6         11 6 TABLE { V(VCTRL1, 6) }
+ ( (-1,-100m) (-0.65,0)(2.49,30n)(1k,30n) )
R_R3         N15051883 N15050974  10
E_E1         CONTROL 0 N15050974 6 1
E_ABM45         N14852177 0 VALUE { LIMIT(((V(B1)-V(E1))*7.2),2.495, 0)    }
E_E29         FB_INT 0 REF 6 1
G_G5         7 6 TABLE { V(VCTRL2, 6) }
+ ( (-1,-100m) (-0.65,0)(2,0)(2.49,20u)(1k,20u) )
V_V1         N17052054 11 0Vdc
G_ABM2I2         6 8 VALUE { LIMIT(IF((V(CONTROL)-V(0))< 0 ,
+  1.73*(V(CONTROL)-V(0)) -1U, -1u),-15m,-18u*V(1,6))    }
E_ABM4         VCTRL1 0 VALUE { if(ABS(V(11))<1u,0,V(1,6))    }
R_R2         6 N15050974  16.9
E_E28         N14953236 0 REF 6 1
E_E27         REF_INT 0 VALUE { IF(V(N14953236,0)<2.45,V(N14953236,0),V(1)) }
R_R8         N14851981 N14852017  10
E_ABM3         VCTRL2 0 VALUE { if(ABS(V(11))<1u,0,V(1,6))    }
D_D12         7 8 DCLAMP
V_V6         N14851981 6 100
G_G7         0 N15050974 N00786 6 {1/16.9}
V_V2         5 6 2
V_V4         6 ANODE 0Vdc
R_R9         B1 REF  1.96Meg
D_D11         5 8 DCLAMP
C_C2         6 N15051883  65n  TC=0,0
X_U9         N14852017 B1 E1 bjt
G_G4         0 N00786 REF_INT 11 50m
E_E31         1 0 N14852177 0 1
.ENDS TL431LI_AVG
*$
.subckt vnse_mod 1 2
.PARAM NLF=1000
.PARAM FLW=13
.PARAM NVR=200
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={15*PWR(FLW,0.2)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ends vnse_mod
*$
.model DCLAMP d
+ is=1.35e-008
+ rs=0.025
+ n=1.59
+ cjo=4.5e-011
+ vj=0.75
+ m=0.302
+ tt=5.04e-008
+ bv=34
+ ibv=0.001
*$
.subckt bjt 3 2 1
q1 3 2 1 npn_1
.model npn_1 npn
+ bf=450
+ is=1e-019
.ends bjt
*$
